US07514419B2
To a stirred suspension of NaH (0.5 g, 22.0 mmol) in anhydrous DMF (20 mL) at 0° C. was added 3,5-dimethyl-4-bromophenol (2.2 g, 11.0 mmol) in DMF (5 mL) followed by diethyl tosyloxymethylphosphonate (3.9 g, 24.2 mmol) in DMF (5.0 mL) 30 min later. The reaction mixture was stirred for 14 h at room temperature and poured into water (30 mL). The aqueous solution was extracted with ethyl acetate (2×100 mL) and the combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel, eluting with ethyl acetate-hexanes (2:3) to afford diethyl (3,5-dimethyl-4-bromophenoxy)methylphosphonate as a syrup. (1.85 g, 48%): 1H NMR (300 MHz, CDCl3): δ 6.88 (s, 2H), 4.15-4.25 (m, 6H), 2.41 (s, 2H), 1.40 (t, J=6.0 Hz, 6H); LC-MS m/z=351[α]3H20BrO4P+H]+; TLC conditions: Uniplate silica gel, 250 microns; mobile phase=ethyl acetate-hexanes (2:3); Rf=0.3.

reactant | NaH | 22.0 mmol, 0.5 g | [H-].[Na+]
reactant | 3,5-dimethyl-4-bromophenol | 11.0 mmol, 2.2 g | CC=1C=C(C=C(C1Br)C)O | C8H9BrO
reactant | diethyl tosyloxymethylphosphonate | 24.2 mmol, 3.9 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCP(OCC)(OCC)=O | C12H19O6PS
reactant | water | 30 mL | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
product | diethyl (3,5-dimethyl-4-bromophenoxy)methylphosphonate | CC=1C=C(OCP(OCC)(OCC)=O)C=C(C1Br)C | C13H20BrO4P
